US03992389
1-[4-(4-Fluorophenyl)-4-oxobutyl]-4-benzamidopiperidine
4-Benzamidopiperidine (2.0 g.), 4'-chloro-p-fluorobutyrophenone (1.0 g.) and a trace of sodium iodide in dimethylformamide (5 ml.) were maintained at 70° C for 18 hours. On cooling, the solid which separated was collected, suspended in water, and refiltered. Recrystallisation from ethanol-water gave the title compound (0.52 g.), m.p. 161°-2° C. (Found: C, 71.9; H, 6.85; N, 7.5. C22H25FN2O2 requires C, 71.7; H, 6.8; N, 7.6%).

reactant | 4-Benzamidopiperidine | 2.0 g | C(C1=CC=CC=C1)(=O)NC1CCNCC1 | C12H16N2O
reactant | 4'-chloro-p-fluorobutyrophenone | 1.0 g | ClC1(CC=C(C=C1)C(CCC)=O)F | C10H12ClFO
reactant | sodium iodide | [I-].[Na+]
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 1-[4-(4-Fluorophenyl)-4-oxobutyl]-4-benzamidopiperidine | 0.52 g | FC1=CC=C(C=C1)C(CCCN1CCC(CC1)NC(C1=CC=CC=C1)=O)=O | C22H25FN2O2
